US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-6-oxo-1,6-dihydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione:
To a solution of 4,6-dichloro-pyrimidine-5-carbaldehyde (177 mg, 1.0 mmol) and (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol (195.3 mg, 1.0 mmol) in chloroform (8 mL) was added Et3N (348 μL, 2.5 mmol). After it was stirred at the room temperature for 8 h, the reaction mixture was evaporated under reduced pressure thoroughly. The remaining residue was mixed with 5,6-diamino-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione (274 mg, 1.0 mmol) in DMA (10 mL). After it was heated at 110° C. for 14 h, the reaction mixture was cooled to the room temperature and mixed with aqueous HCl solution (12 N, 1 mL). The resulting mixture was heated in a sealed vial at 110° C. for 3 h and evaporated to dryness. The residue was basified with NH3 in EtOH (2 M) and concentrated. Chromatography of the crude afforded the title compound (93 mg, 17% yield for 3 steps). 1H NMR (DMSO-d6) δ 1.62 (m, 2H), 1.97 (m, 2H), 2.14 (s, 3H, CH3), 2.17 (s, 3H, CH3), 2.17 (s, 3H, CH3), 2.38 (m, 2H), 2.89 (m, 2H), 3.80 (m, 1H), 3.90-4.02 (4H), 4.11 (m, 1H), 5.47 (br s, 1H, NH), 6.82 (d, J=6 Hz, 1H), 6.93 (d, J=6 Hz, 1H), 6.97 (s, 1H), 8.06 (s, 1H), 8.12 (s, 1H), 10.83 (br s, 1H, NH); ESI-MS m/z 572.3 (MH+).

reactant | 4,6-dichloro-pyrimidine-5-carbaldehyde | 1.0 mmol, 177 mg | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol | 1.0 mmol, 195.3 mg | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 2.5 mmol, 348 μL | CCN(CC)CC | C6H15N
reactant | 5,6-diamino-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione | 1.0 mmol, 274 mg | NC=1C=C2C(N(C(C2=CC1N)=O)C1CCN(CC1)C)=O | C14H18N4O2
reactant | HCl | 12 N, 1 mL | Cl | ClH
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-6-oxo-1,6-dihydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 93 mg, 17% yield | CC1=C(OC[C@@H](CNC=2N=CNC(C2C=2NC3=CC=4C(N(C(C4C=C3N2)=O)C2CCN(CC2)C)=O)=O)O)C=CC(=C1)C | C30H33N7O5
